US07432258B2
a) N1-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1,N2-dimethylglycinamide
1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine (4.7 g, 17 mmol) was dissolved in 150 mL of methylene chloride and treated with N-(3,4-dichlorophenyl)-N-methylglycine (4.02 g, 16.6 mmol), EDC (3.5 g, 18 mmol), HOBt (2.47 g, 18.2 mmol), and triethylamine (2.55 mL, 18.3 mmol). The reaction mixture was stirred at room temperature for 18 h. Methylene chloride (50 mL) was added and the reaction mixture was washed with sodium bicarbonate (100 mL) and then brine (100 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was dissolved in 15 mL of DMSO and purified by preparative HPLC (Phenomenex 75×30 mm column, 15 injections, 40 mL/min flow rate, A: 0.1% TFA in acetonitrile B: 0.1% TFA in water, A: 10 to 100% over 15 min, UV detection at 215 nm) to give 4.01 g (48%) of the title compound as a light yellow solid. MS (ES) m/e 500 [M+H]+.

reactant | 1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine | 17 mmol, 4.7 g | BrC1=CC=C(C=C1)C(CN1CCCC1)NC | C13H19BrN2
reactant | N-(3,4-dichlorophenyl)-N-methylglycine | 16.6 mmol, 4.02 g | ClC=1C=C(C=CC1Cl)N(CC(=O)O)C | C9H9Cl2NO2
reactant | EDC | 18 mmol, 3.5 g
reactant | HOBt | 18.2 mmol, 2.47 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 18.3 mmol, 2.55 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N1-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1,N2-dimethylglycinamide | 4.01 g, 48% | BrC1=CC=C(C=C1)C(CN1CCCC1)N(C(CN(C)C1=CC(=C(C=C1)Cl)Cl)=O)C | C22H26BrCl2N3O
